US07919504B2
5-(5-((S)-2-Amino-3-(4-(trifluoromethyl)phenyl)propylamino)-1,3,4-thiadiazol-2-yl)-6-fluoroindolin-2-one.
The title compound was prepared according to the procedure described for Example 2 starting with N—((S)-2-amino-3-(4-(trifluoromethyl)phenyl)propyl)-5-(2,5-difluoro-4-nitrophenyl)-1,3,4-thiadiazol-2-amine, which was prepared in a similar manner as shown in Scheme 1 with 2,5-difluoro-4-nitrobenzenecarboxylic acid as the starting material. 2,5-Difluoro-4-nitrobenzenecarboxylic acid was purchased from Ryan Scientific Inc. LCMS (API-ES) m/z (%): 452.5 (100%, M++H); 1H NMR (400 MHz, CD3OD): δ ppm 3.13-3.26 (m, 2H), 3.62-3.71 (m, 3H), 3.78-3.84 (m, 1H), 3.85-4.10 (m, 1H), 3.99 (d, J=2.35 Hz, 4H), 6.83-6.89 (m, 1H), 7.61 (d, J=8.02 Hz, 2H), 7.75 (d, J=8.02 Hz, 2H), 7.99 (d, J=6.85 Hz, 1H).

reactant | N—((S)-2-amino-3-(4-(trifluoromethyl)phenyl)propyl)-5-(2,5-difluoro-4-nitrophenyl)-1,3,4-thiadiazol-2-amine | N[C@H](CNC=1SC(=NN1)C1=C(C=C(C(=C1)F)[N+](=O)[O-])F)CC1=CC=C(C=C1)C(F)(F)F | C18H14F5N5O2S
reactant | 2,5-difluoro-4-nitrobenzenecarboxylic acid | FC1=C(C=C(C(=C1)[N+](=O)[O-])F)C(=O)O | C7H3F2NO4
product | 5-(5-((S)-2-Amino-3-(4-(trifluoromethyl)phenyl)propylamino)-1,3,4-thiadiazol-2-yl)-6-fluoroindolin-2-one | N[C@H](CNC1=NN=C(S1)C=1C=C2CC(NC2=CC1F)=O)CC1=CC=C(C=C1)C(F)(F)F | C20H17F4N5OS
